US07034015B2
N-(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(6-hydroxyhexyl)succinamide (Compound 211)
The reaction and work up was conducted as described in the preparation of compound 205. Starting compounds were N-(5-bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (600 mg, 1.16 mmol) (prepared by a similar method as described in WO 01/05746) and 6-aminohexanol (151 mg, 1.28 mmol). The crude product was purified by flash chromatography using EtOAc as the eluent to afford the title compound as a yellow solid.

reactant | N-(5-bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 1.16 mmol, 600 mg | BrC=1C=CC(=C(C1)NC(CCC(=O)O)=O)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl | C24H20BrClN2O4
reactant | 6-aminohexanol | 1.28 mmol, 151 mg | NCCCCCCO | C6H15NO
product | N-(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(6-hydroxyhexyl)succinamide | BrC=1C=CC(=C(C1)NC(CCC(=O)NCCCCCCO)=O)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl | C30H33BrClN3O4
